US08283359B2
Ethyl 2-[(4-bromo-2-fluorophenyl)amino]thieno[2,3-b]pyridine-3-carboxylate
Prepared from ethyl (2-chloropyridin-3-yl)acetate (D. H. Bremner et al., Synthesis, 1997, 949) (500 mg, 2.5 mmol) and 4-bromo-2-fluorophenyl isothiocyanate (580 mg, 2.5 mmol) by the method of Example 1. Title compound obtained as an off-white solid (390 mg, 40%). δH (DMSO-d6) 10.37 (1H, br s), 8.25 (1H, dd, J 1.4, 8.1 Hz), 8.19 (1H, d, J 4.8 Hz), 7.69 (1H, dd, J 1.8, 10.2 Hz), 7.56-7.45 (2H, m), 7.32 (1H, dd, J 4.5, 8.1 Hz), 4.35 (2H, q, J 7.1 Hz), 1.37 (3H, t, J 7.1 Hz). LCMS (ES+) RT 4.66 minutes, 395 (M(79Br)+H)+.

reactant | ethyl (2-chloropyridin-3-yl)acetate | 2.5 mmol, 500 mg | ClC1=NC=CC=C1CC(=O)OCC | C9H10ClNO2
reactant | 4-bromo-2-fluorophenyl isothiocyanate | 2.5 mmol, 580 mg | BrC1=CC(=C(C=C1)N=C=S)F | C7H3BrFNS
product | Ethyl 2-[(4-bromo-2-fluorophenyl)amino]thieno[2,3-b]pyridine-3-carboxylate | BrC1=CC(=C(C=C1)NC1=C(C=2C(=NC=CC2)S1)C(=O)OCC)F | C16H12BrFN2O2S
